US04760163
To 0.71 g of a 55% sodium hydride dispersion in 25 ml of dimethylformamide are introduced 1.52 g of 3-amino-2-cyanoacrylonitril, and the mixture is stirred for 30 minutes at 30° C. After completion of the hydrogen evolution the mixture is treated with 4.20 g of isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate, during which the temperature rises to 30° C. The reaction mixture is then stirred for a further 2 hours at room temperature and poured into water, and the aqueous mixture is acidified with acetic acid and extracted twice with 100 ml of ethyl acetate. The organic phase is washed with water, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is dissolved in 50 ml of methylene chloride and crystallization induced by addition of diethyl ether and cooling to 0° C. Isopropyl 5-[6-amino-5-cyano-2-oxo-1(2H)-pyrimidinyl]-2-chloro-4-fluorobenzoate, m.p. 212°-213° C., is obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-amino-2-cyanoacrylonitril | 1.52 g | NC=C(C#N)C#N | C4H3N3
reactant | hydrogen | [H][H] | H2
reactant | isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate | 4.20 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N=C=O | C11H9ClFNO3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Isopropyl 5-[6-amino-5-cyano-2-oxo-1(2H)-pyrimidinyl]-2-chloro-4-fluorobenzoate | NC1=C(C=NC(N1C=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F)=O)C#N | C15H12ClFN4O3
